US07691878B2
c. 4-Azidomethyl-1,1-difluorocyclohexane
To a solution of toluene-4-sulfonic acid 4,4-difluorocyclohexylmethyl ester (100 mg, 0.33 mmol)) in N,N-Dimethylformamide (0.5 mL) was added sodium azide (32 mg, 0.49 mmol). The reaction mixture was stirred at 90° C. for 90 min, cooled to room temperature and diluted with dichloromethane (5 mL). The organic layer was washed with water (2×5 mL), collected, dried over anhydrous sodium sulfate, filtered, and concentrated to provide the title compound which was used without further purification.

reactant | toluene-4-sulfonic acid 4,4-difluorocyclohexylmethyl ester | 0.33 mmol, 100 mg | FC1(CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C)F | C14H18F2O3S
reactant | sodium azide | 0.49 mmol, 32 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-Dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-Azidomethyl-1,1-difluorocyclohexane | N(=[N+]=[N-])CC1CCC(CC1)(F)F | C7H11F2N3
